data/mechanism_extracts/Chemistry/10.1002_chem.202103728.json
{"doi": "10.1002_chem.202103728", "journal": "Chemistry", "is_review": false, "rxn_class_summary": "Electrochemical synthesis of substituted isoxazolines via mediator-assisted (chloride/HFIP) coupling of aldoximes with electron-deficient alkenes, proceeding through a stepwise radical pathway rather than a concerted 1,3-dipolar [3+2] cycloaddition.", "mechanism_family": ["mediator_anodic", "radical_anodic", "radical_cation"], "electrochemical_role": "Anodic oxidation of chloride to chlorine radical (mediator) which performs HAT on the aldoxime O-H/C-H to generate a hydroxyimoyl/oximyl radical; a secondary pathway involves direct anodic oxidation of the oxime to its radical cation (HFIP-stabilised), followed by Cl-mediated HAT; cathode reduces an anionic cyclic intermediate (and H+ to H2) to deliver the isoxazoline.", "key_intermediates": [{"name": "chlorine radical (Cl•) from anodic oxidation of Cl-", "smiles": "[Cl]", "role": "transient"}, {"name": "hydroxyimoyl/oximyl radical (R-C(•)=N-OH)", "smiles": null, "role": "reactive"}, {"name": "HFIP-stabilised oxime radical cation", "smiles": null, "role": "reactive"}, {"name": "C-centered radical adduct after addition to acrylate (β-radical α to ester)", "smiles": null, "role": "reactive"}, {"name": "anionic cyclised intermediate prior to cathodic reduction", "smiles": null, "role": "transient"}, {"name": "free nitrile oxide (R-C≡N+-O-) — proposed in original hypothesis but disfavoured by DFT (~182 kcal/mol N-chlorination barrier)", "smiles": null, "role": "off_pathway"}, {"name": "furoxan dimer of nitrile oxide", "smiles": null, "role": "off_pathway"}, {"name": "isoxazoline product (3,5-disubstituted, anti-diastereomer kinetic)", "smiles": null, "role": "reactive"}], "electron_flow": "At the anode, chloride is oxidised to Cl• (rate-determining), which abstracts an H atom from the aldoxime to give a hydroxyimoyl radical; this radical adds (SRN2-like) to the Michael acceptor forming a C–C bond, then undergoes 5-exo-tet cyclisation onto the oxime O, and finally cathodic reduction (with H+ → ½H2) furnishes the neutral isoxazoline. A parallel minor pathway: direct anodic oxidation of the oxime to a (HFIP-stabilised) radical cation, then Cl-mediated HAT, addition, cyclisation and cathodic reduction.", "rate_determining_step": "Anodic oxidation of chloride to chlorine radical (slow, surface-limited; rationalises absence of observable KIE despite a calculated HAT KIE ~5).", "probe_reagents": [{"name": "deuterated aldoxime [D1]15a", "smiles": null, "purpose": "KIE", "observation": "Small/negligible KIE 1.0–1.5 by independent rates; [D1]15a gave 17a in 70% vs 78% for 15a — consistent with C–H cleavage not being globally rate-limiting (RDS is Cl- oxidation)."}, {"name": "dimethyl fumarate (E-alkene)", "smiles": "COC(=O)/C=C/C(=O)OC", "purpose": "other", "observation": "Stereoselective (not stereospecific) formation of anti-isoxazoline; anti forms first, syn appears later — supports stepwise (not concerted [3+2]) mechanism."}, {"name": "dimethyl maleate (Z-alkene)", "smiles": "COC(=O)/C=C\\C(=O)OC", "purpose": "other", "observation": "Also gives predominantly anti-diastereomer; loss of stereospecificity rules out concerted cycloaddition."}, {"name": "Et4NOTs (halide-free electrolyte, no Cl-)", "smiles": null, "purpose": "other", "observation": "Reaction still proceeds but yield drops from 78% to 24%, implicating direct oxime oxidation as a minor parallel pathway and Cl- as a key mediator."}, {"name": "HFIP omission control", "smiles": "OC(C(F)(F)F)C(F)(F)F", "purpose": "other", "observation": "Yield drops to 36% (vs 78%); HFIP stabilises the radical cation intermediate (supported by DFT)."}, {"name": "ferrocene (Fc/Fc+ internal reference)", "smiles": null, "purpose": "redox_probe", "observation": "Used to reference CV; Et4NCl gives reversible couple E1/2 = 0.734 V; oxime shows three irreversible single-electron oxidations; acrylate inactive in window."}, {"name": "stirrer-speed variation", "smiles": null, "purpose": "other", "observation": "Rate independent of stirring above 200 rpm — consistent with diffusion-limited but not mass-transport-limited at electrode."}], "evidence_types_used": ["KIE", "H/D_labeling", "cyclic_voltammetry", "DFT", "kinetic_order", "product_isotope_distribution", "other"], "evidence_strength": "strong", "notes": "Authors initially hypothesised a classical pathway via electrophilic chlorination of oxime → nitrile oxide → concerted [3+2] cycloaddition (Scheme 2, route B / Scheme 8 path B). Combined CV, KIE, diastereochemistry (loss of stereospecificity from E/Z alkenes), kinetic time-course, COPASI microkinetic modelling, and DFT (M06-2X/Def2TZVP//6-31+G(d,p), SMD MeCN) instead support a stepwise open-shell radical (SRN2-like) mechanism: barriers for [3+2] are ~2.5× higher, and N-chlorination/E2 to nitrile oxide is prohibitively high (~182 kcal/mol). Regioselectivity for 3,5- over 3,4-isoxazoline is governed by distortion (Boys-Bernardi counterpoise) at the SRN2 TS. The syn-diastereomer arises via post-cyclisation epimerisation of the kinetic anti product. Limitation noted by authors: O–H proton-transfer steps were not modelled by DFT."}
